### PR TITLE
Prefilter for multiple starting characters

### LINKED ISSUE #118: Extend prefilter to support multiple starting characters
Currently, the prefilter in `OptimizationInfo` only works when there is a single character that starts all possible matches.
For example, it can optimize cases like `AROA|AIDA` now by finding `A` in the input string before executing the regex engines, but it misses cases like `(foo|bar)baz` which would allow us to find `f` or `b` first.

### 1. Extend `OptimizationInfo` structure

The current `OptimizationInfo` structure only stores a single `firstChar`. We need to extend it to handle multiple possible starting characters:

```lean
structure OptimizationInfo where
  /--
  When `firstChars` is `.some chars`, all matching strings must start with one of the characters in `chars`.
  
  The regex engine will optimize the search to skip positions that do not start with any character in `chars`.
  -/
  firstChars : Option (Array Char)
deriving Repr, Inhabited, DecidableEq, Lean.ToExpr
```

### 2. Extend `Expr.firstChar` to `Expr.firstChars`

Modify the `firstChar` function in `regex/Regex/Data/Expr/Optimization.lean` to return an array of possible starting characters:

```lean
def firstChars (expr : Expr) : Option (Array Char) := sorry
  -- TODO: Implement this!
  -- We don't want to make this return a large array (which would slow down the prefilter),
  -- so let's limit the array to 8 characters.
  -- The structure will be similar to the current `firstChar` function, but there will be some differences:
  -- * For `.alternate e₁ e₂`, we can take the union of the first characters of `e₁` and `e₂` instead of comparing the two.
  -- * For `.classes cs`, let's limit the extraction to `Class.single` to avoid large arrays.
```

### 3. Update `findStart` method

The current `findStart` method uses `Iterator.find` with a single character predicate. We need to extend it to handle multiple characters.

### 4. Update correctness proofs

The `curr_of_captures_of_firstChar_some` theorem in `correctness/RegexCorrectness/Data/Expr/Optimization.lean` proves that the starting character (`it.curr`) equals to `expr.firstChar`, when returns `.some`. You need to update the theorem to check if `it.curr` is in `expr.firstChars`.

The remaining fix in `correctness/RegexCorrectness/Regex/OptimizationInfo.lean` should be easy.

### PR DESCRIPTION
**Pull request by muttener**
This is a first step to resolve #118, but it is not yet ready to be merged.

After some iterations, the basic structure is finished. There is still room for improvement, and I'll be working on this in the coming week. In particular, the following still needs to be done:

- [ ] **Use the`.single` character class as well.** 
When classes are used, the prefilter is currently not activated.
- [x] **Guarantee that the resulting array does not contain duplicates.** 
This needs to be done in the `.classes` and `.alternate` case, and will make the prefilter more efficient. In fact, currently there are regressions with respect to the one character prefilter: regexes with lots of alternatives with the same starting character will not activate the prefilter, since the array of starting characters will be too large.
For `.alternate`, the current code simply concatenates the `firstChars` of both options. I will need a good way to merge arrays which removes duplicates and for which the necessary theorems exist. I could not find this in the standard library yet. Worst case, I'll try to write this myself.
- [ ] **Proof golfing.**
The proof of `curr_of_captures_of_firstChars_some` can probably be cleaned up a bit. For this, the final implementation of `firstChars` should be finished.

Feel free to give some feedback!

### CODE REVIEW

File: regex/Regex/Data/Expr/Optimization.lean [hunk 1]
```diff
@@ -11,17 +11,21 @@ def nullOnly (expr : Expr) : Bool :=
...
+    | .empty | .epsilon | .anchor _ => .none
+    | .char c => .some #[c]
+    | .classes _ => .none -- TODO: take .single class into account
+    | .group _ e => e.firstChars maxSize
+    | .concat e₁ e₂ => if e₁.nullOnly then e₂.firstChars maxSize else e₁.firstChars maxSize
+    | .alternate e₁ e₂ => do
+      let cs₁ ← e₁.firstChars maxSize
+      let cs₂ ← e₂.firstChars maxSize
+      -- TODO: make sure there are no duplicates
+      -- Array.foldl (Array.binInsert (· < ·)) cs₁ cs₂
```
Comment (pandaman64) [inline regex/Regex/Data/Expr/Optimization.lean:25]: How about using [`HashSet`](https://lean-lang.org/doc/reference/latest/Basic-Types/Maps-and-Sets/#HashSet)? The `findStart` side might still be faster to linearly scan with `toArray`.

File: correctness/RegexCorrectness/Data/Expr/Optimization.lean [hunk 2]
```diff
@@ -7,22 +7,37 @@ theorem empty_of_captures_of_nullOnly {it it' groups e} (c : Expr.Captures it it
...
-  | alternateLeft _ ih =>
-    simp [firstChar, Option.bind_eq_some_iff] at h
-    exact ih h.1
+  | sparse | epsilon | anchor | starEpsilon | starConcat => simp [firstChars]
+  | char vf => simp_all [vf.curr, firstChars, Option.bind_eq_some_iff]
+  | group _ _ => simp_all [firstChars, Option.bind_eq_some_iff]
+  | alternateLeft c₁ ih =>
+    intro cs h
+    simp [firstChars, Option.bind_eq_some_iff] at h
+    have ⟨_,hcs₁,_,_,hcs⟩ := h
```
Comment (pandaman64) [inline correctness/RegexCorrectness/Data/Expr/Optimization.lean:20]:
```suggestion
    have ⟨_, hcs₁, _, _, hcs⟩ := h
```

(style nit)

File: correctness/RegexCorrectness/Data/Expr/Optimization.lean [hunk 3]
```diff
@@ -7,22 +7,37 @@ theorem empty_of_captures_of_nullOnly {it it' groups e} (c : Expr.Captures it it
...
+    simp only [Array.contains_eq_mem, Array.mem_append, Bool.decide_or, Bool.or_eq_true,
+      decide_eq_true_eq]
+    left
+    exact Array.contains_iff.mp (ih hcs₁)
   | alternateRight _ ih =>
-    simp [firstChar, Option.bind_eq_some_iff] at h
-    exact ih h.2
+    intro cs h
+    simp [firstChars, Option.bind_eq_some_iff] at h
+    have ⟨_,_,_,hcs₂,hcs⟩ := h
```
Comment (pandaman64) [inline correctness/RegexCorrectness/Data/Expr/Optimization.lean:29]:
```suggestion
    have ⟨_, _, _, hcs₂, hcs⟩ := h
```

(style nit)

**Review by pandaman64 — COMMENTED** [review]
You are quick :grin:

File: regex/Regex/Data/Expr/Optimization.lean (hunk 1 above)
Comment (muttener) [reply regex/Regex/Data/Expr/Optimization.lean:25]: I also found [Array.mergeDedup](https://leanprover-community.github.io/mathlib4_docs/Batteries/Data/Array/Merge.html#Array.mergeDedup) in `Batteries`, which is precisely what I had in mind. This way, there is no need to swap the container type. Two downsides: there are no lemmas about it and this project would get another dependency. On the plus side, if the arrays are sorted, `findStart` could use [Array.binSearchContains](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Array/BinSearch.html#Array.binSearchContains).

File: correctness/RegexCorrectness/Data/HashSet.lean [hunk 4]
```diff
@@ -0,0 +1,15 @@
+import Std.Data.HashSet
+
+universe u
+
+variable {α : Type u} [BEq α] [Hashable α]
+
+namespace Std.HashSet
+
```
Comment (muttener) [inline correctness/RegexCorrectness/Data/HashSet.lean:8]: Currently, the proof is incomplete, but everything can be reduced to the two following lemmas.

File: correctness/RegexCorrectness/Data/HashSet.lean [hunk 5]
```diff
@@ -0,0 +1,15 @@
...
+theorem mem_union_iff {a : α} (m₁ m₂ : HashSet α) :
+    a ∈ m₁.union m₂ ↔ a ∈ m₁ ∨ a ∈ m₂ := sorry
+
+theorem contains_toArray_iff {a : α} (m : HashSet α) :
+    m.contains a ↔ m.toArray.contains a := sorry
+
```
Comment (muttener) [inline correctness/RegexCorrectness/Data/HashSet.lean:14]: Currently, the proof is incomplete, but everything can be reduced to the two lemmas above.

**Comment by muttener** [comment]
I have no idea why the macos build failed.
Also, taking the `.single` class into account is not yet done, but this could be a good beginner issue since the implementation and the proof should pretty straightforward.

**Comment by pandaman64** [comment]
I quickly ran benchmarks with/without this PR, and I observed improvements by a few percentages across benchmarks. Particularly, the `02-literal-alternate` ones should measure the cases where there are multiple candidates for the first characters, exhibiting 7-12% speedup thanks to this PR. Great work!

| benchmark                                     | engine | 2025-10-01-v4.24.0-rc1-53fe74eb.csv | 2025-10-01-v4.24.0-rc1-82f305b5.csv |
|-----------------------------------------------|--------|------------------------------------|------------------------------------|
| curated/01-literal/sherlock-en                 | lean   | **9.7 MB/s (1.00x)**                | 9.1 MB/s (1.06x)                   |
| curated/01-literal/sherlock-ru                 | lean   | **29.2 MB/s (1.00x)**               | 27.7 MB/s (1.05x)                  |
| curated/01-literal/sherlock-zh                 | lean   | **29.0 MB/s (1.00x)**               | 28.0 MB/s (1.03x)                  |
| curated/02-literal-alternate/sherlock-en       | lean   | **2.5 MB/s (1.00x)**                | 2.3 MB/s (1.07x)                   |
| curated/02-literal-alternate/sherlock-ru       | lean   | **4.1 MB/s (1.00x)**                | 3.9 MB/s (1.07x)                   |
| curated/02-literal-alternate/sherlock-zh       | lean   | **6.1 MB/s (1.00x)**                | 5.5 MB/s (1.12x)                   |
| curated/03-date/ascii                          | lean   | **53.8 KB/s (1.00x)**               | 53.6 KB/s (1.00x)                  |
| curated/03-date/unicode                        | lean   | **53.8 KB/s (1.00x)**               | 53.7 KB/s (1.00x)                  |
| curated/06-cloud-flare-redos/original          | lean   | **1684.3 KB/s (1.00x)**             | 1683.5 KB/s (1.00x)                |
| curated/06-cloud-flare-redos/simplified-short  | lean   | **2.2 MB/s (1.00x)**                | 2.1 MB/s (1.02x)                   |
| curated/06-cloud-flare-redos/simplified-long   | lean   | **2.3 MB/s (1.00x)**                | 2.2 MB/s (1.03x)                   |
| curated/07-unicode-character-data/parse-line   | lean   | 2.4 MB/s (1.04x)                    | **2.5 MB/s (1.00x)**               |
| curated/07-unicode-character-data/compile      | lean   | **17.05us (1.00x)**                 | 18.01us (1.06x)                    |
| curated/08-words/all-english                   | lean   | **3.2 MB/s (1.00x)**                | 3.1 MB/s (1.01x)                   |
| curated/08-words/long-english                  | lean   | **5.4 MB/s (1.00x)**                | 5.3 MB/s (1.03x)                   |
| curated/09-aws-keys/quick                      | lean   | **18.7 MB/s (1.00x)**               | 18.3 MB/s (1.02x)                  |
| curated/09-aws-keys/compile-quick              | lean   | 8.37us (1.04x)                      | **8.03us (1.00x)**                 |
| curated/10-bounded-repeat/letters-en           | lean   | 3.7 MB/s (1.03x)                    | **3.8 MB/s (1.00x)**               |
| curated/11-unstructured-to-json/extract        | lean   | **2.3 MB/s (1.00x)**                | 2.2 MB/s (1.01x)                   |
| curated/11-unstructured-to-json/compile        | lean   | **12.25us (1.00x)**                 | 12.67us (1.03x)                    |
| curated/14-quadratic/1x                        | lean   | **118.6 KB/s (1.00x)**              | 109.4 KB/s (1.08x)                 |
| curated/14-quadratic/2x                        | lean   | **61.6 KB/s (1.00x)**               | 60.7 KB/s (1.02x)                  |
| curated/14-quadratic/10x                       | lean   | **12.6 KB/s (1.00x)**               | 12.2 KB/s (1.03x)                  |
